US05723412
(1) Synthesis of an intermediate, 2-methylthio-4-trifluoromethyl-6-[3-(trifluoromethyl)phenoxy]pyrimidine
m-(Trifluoromethyl)phenol (1.06 g, 0.0044×1.5 mol) and NaH (0.26 g (ca.60% in mineral oil), 0.0044×1.5 mol) were dissolved in THF, and then 4-chloro-2-methylthio-6-(trifluoromethyl)pyrimidine (Compound No. VII-17) (1.0 g, 0.0044 mol) was added thereto. The resulting solution was refluxed for about 7 hours. The reaction solution was partitioned between ethyl acetate and aqueous saturated sodium hydrogen carbonate to separate an organic phase. The organic phase was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated. Thereafter, remaining phenol and others were distilled off in a tubular oven (under water flow, 150° C.) to obtain the intermediate compound.

reactant | m-(Trifluoromethyl)phenol | 1.5 mol, 1.06 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | NaH | 1.5 mol, 0.26 g | [H-].[Na+]
reactant | 4-chloro-2-methylthio-6-(trifluoromethyl)pyrimidine | ClC1=NC(=NC(=C1)C(F)(F)F)SC | C6H4ClF3N2S
solvent | THF | C1CCOC1 | C4H8O
product | 2-methylthio-4-trifluoromethyl-6-[3-(trifluoromethyl)phenoxy]pyrimidine | CSC1=NC(=CC(=N1)C(F)(F)F)OC1=CC(=CC=C1)C(F)(F)F | C13H8F6N2OS
